* NGSPICE file created from vref01.ext - technology: sky130A


* Top level circuit vref01

X0 SS a_n354_1346# VREF SS sky130_fd_pr__nfet_01v8 ad=0.238 pd=2.22 as=0.238 ps=2.22 w=0.82 l=1.05
X1 DD a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=1.74 pd=12.6 as=1.74 ps=12.6 w=6 l=0.89
X2 VREF a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=0.499 pd=4.02 as=0.499 ps=4.02 w=1.72 l=3.1
X3 DD a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=1.74 pd=12.6 as=1.74 ps=12.6 w=6 l=0.89
D0 VREF DD sky130_fd_pr__diode_pd2nw_05v5_lvt pj=2.6e+06 area=4.225e+11
.end

