* NGSPICE file created from vref01.ext - technology: sky130A

.subckt sky130_fd_pr__diode_pd2nw_05v5_lvt_TF3SFX w_n215_n215# a_n65_n65#
D0 a_n65_n65# w_n215_n215# sky130_fd_pr__diode_pd2nw_05v5_lvt pj=2.6e+06 area=4.225e+11
.ends

Xsky130_fd_pr__diode_pd2nw_05v5_lvt_TF3SFX_0 DD VREF sky130_fd_pr__diode_pd2nw_05v5_lvt_TF3SFX
X0 SS a_n354_1346# VREF SS sky130_fd_pr__nfet_01v8 ad=0.238 pd=2.22 as=0.238 ps=2.22 w=0.82 l=1.05
X1 DD a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=1.74 pd=12.6 as=1.74 ps=12.6 w=6 l=0.89
X2 VREF a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=0.499 pd=4.02 as=0.499 ps=4.02 w=1.72 l=3.1
X3 DD a_n354_1346# a_n354_1346# SS sky130_fd_pr__nfet_01v8_lvt ad=1.74 pd=12.6 as=1.74 ps=12.6 w=6 l=0.89

.end

